US07115609B2
1-[N-(6-Chlorobenzo[b]thiophene-2-carbonyl)-β-(1-methylpiperidin-4-yl)-D-alanyl]-4-(1-methylpiperidin-4-yl)piperazine
Using methods substantially equivalent to those described in Method D-1, the titled compound was prepared from 1-[β-(1-methylpiperidin-4-yl)-D-alanyl]-4-(1-methylpiperidin-4-yl)piperazine tetrahydrochloride and 6-chlorobenzo[b]thiophene-2-carboxylic acid (52%).

reactant | 1-[β-(1-methylpiperidin-4-yl)-D-alanyl]-4-(1-methylpiperidin-4-yl)piperazine tetrahydrochloride | Cl.Cl.Cl.Cl.CN1CCC(CC1)C[C@@H](N)C(=O)N1CCN(CC1)C1CCN(CC1)C
reactant | 6-chlorobenzo[b]thiophene-2-carboxylic acid | ClC=1C=CC2=C(SC(=C2)C(=O)O)C1 | C9H5ClO2S
product | 1-[N-(6-Chlorobenzo[b]thiophene-2-carbonyl)-β-(1-methylpiperidin-4-yl)-D-alanyl]-4-(1-methylpiperidin-4-yl)piperazine | ClC=1C=CC2=C(SC(=C2)C(=O)N[C@H](CC2CCN(CC2)C)C(=O)N2CCN(CC2)C2CCN(CC2)C)C1 | C28H40ClN5O2S
